US06800625B2
2-Benzyl-3-(2,3-dihydro-benzofuran-5-yl)-2,4-dihydro-pyrrolo[3,4-b]quinolin-9-one (Compound #2)
The title compound was prepared by stirring 3-(1,3-benzodioxol-5-yl)-2,3-dihydro-2-(phenylmethyl)-3a,9a-epoxy-1H-pyrrolo[3,4-b]quinolin-9-(4H)-one, prepared as in Example 1, with HCl (2 drops of 1N aqueous solution) in a mixture of CH2Cl2 and DMF (4:1) for 72 hours at room temperature.

reactant | 3-(1,3-benzodioxol-5-yl)-2,3-dihydro-2-(phenylmethyl)-3a,9a-epoxy-1H-pyrrolo[3,4-b]quinolin-9-(4H)-one | O1COC2=C1C=CC(=C2)C2N(CC13C2(NC=2C=CC=CC2C1=O)O3)CC3=CC=CC=C3 | C25H20N2O4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | HCl | 1N, 2 drops | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Benzyl-3-(2,3-dihydro-benzofuran-5-yl)-2,4-dihydro-pyrrolo[3,4-b]quinolin-9-one | C(C1=CC=CC=C1)N1C(=C2NC=3C=CC=CC3C(C2=C1)=O)C=1C=CC2=C(CCO2)C1 | C26H20N2O2
